US08420828B2
3-(2,2,2-trifluoroethoxy)-1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-difluorophenyl)-4-methyl-1H-pyrrol-2(5H)-one
The compound was synthesized starting from tert-butyl 5-(2-(2,3-difluorophenyl)-4-hydroxy-3-methyl-5-oxo-2H-pyrrol-1(5H)-yl)-1H-benzo[d]imidazole-1-carboxylate (0.441 g, 1 mmol), trifluoroiodoethane (0.15 ml, 1.5 mmol) and P1-tBu (1.38 ml, 1.5 mmol) according to the method described above and was further purified by semi-preparative HPLC.

reactant | tert-butyl 5-(2-(2,3-difluorophenyl)-4-hydroxy-3-methyl-5-oxo-2H-pyrrol-1(5H)-yl)-1H-benzo[d]imidazole-1-carboxylate | 1 mmol, 0.441 g | FC1=C(C=CC=C1F)C1N(C(C(=C1C)O)=O)C1=CC2=C(N(C=N2)C(=O)OC(C)(C)C)C=C1 | C23H21F2N3O4
reactant | trifluoroiodoethane | 1.5 mmol, 0.15 ml | FC(CI)(F)F | C2H2F3I
product | 3-(2,2,2-trifluoroethoxy)-1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-difluorophenyl)-4-methyl-1H-pyrrol-2(5H)-one | FC(COC=1C(N(C(C1C)C1=C(C(=CC=C1)F)F)C1=CC2=C(NC=N2)C=C1)=O)(F)F | C20H14F5N3O2
